US07109219B2
2-Amino-4-(1H-5-indolylamino)pyrimidine
A mixture of 2-amino-4,6-dichloropyrimidine (1.64 g, 10 mmol), 5-aminoindole (1.32 g, 10 mmol), diisopropylethylamine (5.23 ml, 30 mmol) and N,N-dimethylformamide (30 ml) was heated at 60° C. and stirred overnight under nitrogen atmosphere. The reaction mixture was partitioned between ethyl acetate and water after cooled to room temperature; and the organic layer was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was distilled off; the obtained residue was dissolved in tetrahydrofuran (100 ml); 10% Palladium on carbon (50% wet, 1.0 g) was added thereto under nitrogen atmosphere; and the reaction mixture was stirred for 4 days under hydrogen atmosphere at atmospheric pressure. The reaction system was purged with nitrogen; the catalyst was filtered off; the filtrate was concentrated under reduced pressure; the residue was purified by NH silica gel column chromatography (eluent; ethyl acetate:methanol=95:5); diethyl ether was added to the residue to crystallize; and the crystals were filtered off, and dried under aeration to yield the title compound (852 mg, 3.8 mmol, 38%) as pale brown crystals.

reactant | 2-amino-4,6-dichloropyrimidine | 10 mmol, 1.64 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | 5-aminoindole | 10 mmol, 1.32 g | NC=1C=C2C=CNC2=CC1 | C8H8N2
reactant | diisopropylethylamine | 30 mmol, 5.23 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-Amino-4-(1H-5-indolylamino)pyrimidine | 3.8 mmol, 852 mg, 38% | NC1=NC=CC(=N1)NC=1C=C2C=CNC2=CC1 | C12H11N5
